US08211885B2
Step 1: 4-(2-Chloro-1-phenyl-1H-indole-3-carbonyl)-piperazine-1-carboxylic acid tert-butyl ester
To a solution of 2-chloro-1-phenyl-1H-indole-3-carboxylic acid (cf. CA 1079739) (3.00 g, 11.0 mmol), tert-butyl 1-piperazinecarboxylate (2.06 g, 11.0 mmol), EDC (2.33 g, 12.1 mmol) and HOAT (1.73 g, 12.7 mmol) in DMF (12 ml) was added NMM (3.65 ml, 33.1 mmol), and the reaction mixture was stirred at room temperature overnight. The mixture was quenched with water and extracted with EA. The organic layer was separated, dried over sodium sulfate, filtered, and evaporated under reduced pressure. The residue was purified by silica gel chromatography (EA/HEP 1:3). 4.51 g of the title compound were obtained.

reactant | 2-chloro-1-phenyl-1H-indole-3-carboxylic acid | 11.0 mmol, 3.00 g | ClC=1N(C2=CC=CC=C2C1C(=O)O)C1=CC=CC=C1 | C15H10ClNO2
reactant | tert-butyl 1-piperazinecarboxylate | 11.0 mmol, 2.06 g | N1(CCNCC1)C(=O)OC(C)(C)C | C9H18N2O2
reactant | EDC | 12.1 mmol, 2.33 g
reactant | HOAT | 12.7 mmol, 1.73 g | C1=CC2=C(N=C1)N(N=N2)O | C5H4N4O
reactant | NMM | 33.1 mmol, 3.65 ml | CN1CCOCC1 | C5H11NO
solvent | DMF | 12 ml | CN(C)C=O | C3H7NO
product | 4-(2-Chloro-1-phenyl-1H-indole-3-carbonyl)-piperazine-1-carboxylic acid tert-butyl ester | 4.51 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C(=O)C1=C(N(C2=CC=CC=C12)C1=CC=CC=C1)Cl | C24H26ClN3O3
